US05229381
Step A: Preparation of 4-hydroxy-2-methylbenzoic acid
4'-Hydroxy-2'-methylacetophenone (15 gm, 0.1 mol) was dissolved in pyridine and iodine (25.4 gm) was added. This mixture was heated to 100° C. for 1 hr and then allowed to stand at room temperature overnight. A thick precipitate was obtained and the mixture was diluted with Et2O before filtering. The solid so obtained was added to 5N NaOH (200 ml) and heated on the steam bath for 1 hr before being cooled and acidified with HCl. This mixture was extracted twice with Et2O and the pooled organic layers were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The residue was crystallized from Et2O-hexane to give 9.8 gm of the title compound as a solid.

reactant | 4'-Hydroxy-2'-methylacetophenone | 0.1 mol, 15 gm | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | iodine | 25.4 gm | II | I2
reactant | NaOH | 5N, 200 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | Et2O | CCOCC | C4H10O
product | 4-hydroxy-2-methylbenzoic acid | 9.8 gm | OC1=CC(=C(C(=O)O)C=C1)C | C8H8O3
